US05039676
Dimethyl 1-(4-chlorophenyl)-7-oxabicyclo[2.2.1] hept-2-ene-2,3-dicarboxylate
2-(4-Chlorophenylfuran (2.3 g) and dimethyl acetylenedicarboxylate (1.54 ml) were subjected to Diels-Alder reaction in water (5.48 ml) as described in Example 53. The resulting adduct was dissolved in EtOAc (140 ml) and hydrogenated over Adam's platinum catalyst (100 mg) at room temperature and atmospheric pressure. The uptake of one equivalent of H2 required about 3 hours. The catalyst was removed by filtration and the solvent removed in-vacuo to provide a gummy product which was chromatographed over silica gel column. Elution of column with 10% acetone in n-hexane gave fractions containing the pure title compound (3.25 g) as colorless crystals:m.p. 90°-91° C.; PMR δH (CDCl3): 1.55-1.7 (n,1H), 2-2.3 (m,3H), 3.62 (s,3H), 3.79(s,3H), 5.37 (d, 1H, J=4.2 Hz), 7.3-7.44 (m,4H).

reactant | 4-Chlorophenylfuran | 2.3 g | ClC1=CC=C(C=C1)C=1OC=CC1 | C10H7ClO
reactant | dimethyl acetylenedicarboxylate | 1.54 ml | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | water | 5.48 ml | O | H2O
solvent | EtOAc | 140 ml | CCOC(=O)C | C4H8O2
catalyst | platinum | 100 mg | [Pt] | Pt
product | Dimethyl 1-(4-chlorophenyl)-7-oxabicyclo[2.2.1] hept-2-ene-2,3-dicarboxylate | 3.25 g | ClC1=CC=C(C=C1)C12C(=C(C(CC1)O2)C(=O)OC)C(=O)OC | C16H15ClO5
